US06576656B1
(5) 4-Trifluoromethyl-6-iodooxindole
To methyl [2-nitro-4-iodo-6-(trifluoromethyl)phenyl]acetate (33.11 g, 85.1 mmol) in MeOH (1000 mL) at 0° C. was added aqueous 20% TiCl3 (815 g, 12.4 eq). The cooling bath was removed and the resulting mixture stirred at room temperature for 3 hours and then left overnight. To the mixture was then added aqueous 6N HCl (900 mL) and the mixture extracted with EtOAc:toluene (1:1, 3×1000 mL) and EtOAc:toluene (2:1, 3×900 mL and 3×500 mL). The extracts were combined and dried (anhydrous MgSO4). After filtration, the solvent was removed in vacuo to give a light brown solid. Purification was carried out by crystallization from EtOH (300 mL) to give the title compound as a light brown crystalline solid (21.588 g, 78%).

reactant | methyl [2-nitro-4-iodo-6-(trifluoromethyl)phenyl]acetate | 85.1 mmol, 33.11 g | [N+](=O)([O-])C1=C(C(=CC(=C1)I)C(F)(F)F)CC(=O)OC | C10H7F3INO4
solvent | MeOH | 1000 mL | CO | CH4O
product | 4-Trifluoromethyl-6-iodooxindole | 21.588 g, 78% | FC(C1=C2CC(NC2=CC(=C1)I)=O)(F)F | C9H5F3INO
